US05254667
Synthesis of Ethyl Hydrogen Fumarate
Maleic anhydride (100.0 g, 1.02 mole) was dissolved in anhydrous ethanol (60 ml, excess) by heating the mixture in an erlenmeyer flask on a steam bath. Thionyl chloride (1.0 ml) was added using a syringe and the mixture heated with stirring for ten minutes. To the turbid mixture was added carbon tetrachloride (100 ml) and the liquid quickly filtered through a Buchner funnel having a coarse glass frit. The solid was discarded. The filtrate was allowed to cool during which the time the ethyl hydrogen fumarate product (92 g, 63%) crystallized.

reactant | Maleic anhydride | 1.02 mole, 100.0 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | Thionyl chloride | 1.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | ethanol | 60 ml | C(C)O | C2H6O
product | Ethyl Hydrogen Fumarate | C(\C=C\C(=O)O)(=O)OCC | C6H8O4
